* source PROIECTCAD
V_V2         VCC 0 15
V_V3         -VCC 0 -15
V_V4         N00912 0  AC 1.15m
+SIN 0 1.15m 260 0 0 0
X_U1B         N07633 N01994 VCC -VCC N02102 TL072/301/TI
R_R3         0 N01994 R_R3 1k TC=0,0 
.model        R_R3 RES R=1 DEV=0.1% TC1=0 TC2=0
R_R4         N01994 N02102 R_R4 48.7k TC=0,0 
.model        R_R4 RES R=1 DEV=1% TC1=0 TC2=0
X_U2A         N02102 N02283 VCC -VCC N02357 TL072/301/TI
R_R5         0 N02283 R_R5 1k TC=0,0 
.model        R_R5 RES R=1 DEV=0.1% TC1=0 TC2=0
R_R6         N02283 N02357 R_R6 48.7k TC=0,0 
.model        R_R6 RES R=1 DEV=1% TC1=0 TC2=0
X_U2B         N02357 N08767 VCC -VCC N03316 TL072/301/TI
X_R9         N03520 N03520 N03316 POT PARAMS: SET={set} VALUE=5k
R_R10         -VCC N12072 R_R10 1k TC=0,0 
.model        R_R10 RES R=1 DEV=0.1% TC1=0 TC2=0
R_R11         N12060 VCC R_R11 1k TC=0,0 
.model        R_R11 RES R=1 DEV=0.1% TC1=0 TC2=0
R_R16         0 N12084  5 TC=0,0 
C_C1         N00912 N07274  10n  TC=0,0 
R_R1         0 N07274 R_R1 61.9k TC=0,0 
.model        R_R1 RES R=1 DEV=1% TC1=0 TC2=0
X_U3A         N07274 N07398 VCC -VCC N07398 TL072/301/TI
R_R2         N07398 N07518 R_R2 1.37k TC=0,0 
.model        R_R2 RES R=1 DEV=1% TC1=0 TC2=0
C_C2         0 N07518  10n  TC=0,0 
X_U3B         N07518 N07633 VCC -VCC N07633 TL072/301/TI
R_R7         N08767 N03520 R_R7 1k TC=0,0 
.model        R_R7 RES R=1 DEV=0.1% TC1=0 TC2=0
R_R8         0 N08767 R_R8 1k TC=0,0 
.model        R_R8 RES R=1 DEV=0.1% TC1=0 TC2=0
X_Q3         VCC N12060 N12084 TIP122
X_Q4         -VCC N12072 N12084 TIP127
D_D8         N11944 N11952 D1N914 
D_D9         N12060 N11944 D1N914 
D_D10         N11952 N12027 D1N914 
D_D11         N12027 N12072 D1N914 
X_U4A         N03316 N11952 VCC -VCC N11952 TL072/301/TI
.PARAM  set=0.5
